US07049318B2
2-(2 (S)-Amino-3-phenyl-propylamino)-3-methyl-5-amino-6-pyridin-4-yl-3H-pyrimidin-4-one:
A suspension of 2-(2 (S)-amino-3-phenyl-propylamino)-3-methyl-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one (0.2 mmol) and Pd/C was stirred over a hydrogen filled balloon for 1 h at room temperature. The product was filtered through a bed of celite, and the solvents removed under vacuum. The product was purified on reverse phase HPLC M+1=351.

reactant | 2-(2 (S)-amino-3-phenyl-propylamino)-3-methyl-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one | 0.2 mmol | N[C@H](CNC1=NC(=C(C(N1C)=O)[N+](=O)[O-])C1=CC=NC=C1)CC1=CC=CC=C1 | C19H20N6O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 2-(2 (S)-Amino-3-phenyl-propylamino)-3-methyl-5-amino-6-pyridin-4-yl-3H-pyrimidin-4-one | N[C@H](CNC1=NC(=C(C(N1C)=O)N)C1=CC=NC=C1)CC1=CC=CC=C1 | C19H22N6O
